US09301526B2
To a stirred solution of [2-chloro-6-(trifluoromethyl)pyridin-3-yl]methanol (Int-16) (80.0 g, 1.0 eq.) in dichloromethane (700 ml) was added pyridinium chlorochromate (160.0 g, 2.0 eq), silicium dioxide (240 g) at room temperature and stirred for 4 h. The progress of the reaction was monitored by TLC. After completion of reaction, reaction mixture was filtered through silica gel bed and washed the bed with excess 90% ethyl acetate in pet ether and filtrate was concentrated under reduced pressure to get crude 2-chloro-6-(trifluoromethyl)nicotinaldehyde (Int-17) as yellow liquid (70.0 g, 88.3%). GC-MS: m/z 209 ([M]).

reactant | [2-chloro-6-(trifluoromethyl)pyridin-3-yl]methanol | 80.0 g, 1.0 eq. | ClC1=NC(=CC=C1CO)C(F)(F)F | C7H5ClF3NO
reactant | pyridinium chlorochromate | 160.0 g, 2.0 eq | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | dichloromethane | 700 ml | ClCCl | CH2Cl2
product | 2-chloro-6-(trifluoromethyl)nicotinaldehyde | 70.0 g, 88.3% | ClC1=C(C=O)C=CC(=N1)C(F)(F)F | C7H3ClF3NO
